* 1 and 2 = in, 3 = sel+, 4 = sel-
.subckt TMUX1511-SW 1 2 3 4
*.model switch1 sw(Vt=1.2 Ron=4.5 Roff=1Gig)
*.model switch1 sw(Vt=1.2 Ron=1Gig Roff=1Gig)
.model switch1 sw(Vt=1.2 Ron=4.5 Roff=4.5)
.model switch2 sw(Vt=1.2 Ron=1m Roff=1m)

S1 1 2 3 4 switch1
C1 1 2 4p
S2 1 5 3 4 switch2
C2 5 2 2p
I1 1 2 dc 100n
R1 3 4 6Meg

.ends TMUX1511-SW
